*****************************************************************
* NXP BUK9Y6R0-60E
*
* Polarity N-Channel
* Ratings 60V/6.000000E-003OHMS/100A
*
* Date Created Tue Feb 05 08:47:02 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y6R0-60E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00345854451912163 TC=0.00570128631358852,1.45482691177252E-05
RBD 9 4 0.000839345999229323 TC=0.00570128631358852,1.45482691177252E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 3.97594001229258e-09
RG 1 2 2.56663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2517
+ -16	2518
+ -10	2516.8
+ -5	2516.7
+ -4	2708
+ -3	2702.1
+ -2	2691
+ -1	2641.6
+ -0.5	2611.6
+ -0.2	2574.5
+ -0.1	2555.4
+ 0	1764.55
+ 0.1	804.1
+ 0.2	718.25
+ 0.5	584.34
+ 1	482.37
+ 2	365.7
+ 3	312.72
+ 4	289.36
+ 5	276.11
+ 6	267.53
+ 8	255.72
+ 10	247.54
+ 12	240.75
+ 15	231.95
+ 20	219.04
+ 30	200.07
+ 50	181.04



.MODEL MINT NMOS(Vto=2.25 Kp=170 Nfs=440000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=2.97137839213305e-12
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.8908e-09 Tt=1.5232e-08)

.ENDS

